US06531491B1
3-1H-Benzoimidazol-2-yl-6-(2-(hydroxymethyl)-5-methoxy-4-hydroxy-phenyl)-1H-indazole
Example 24(n) was prepared in a similar manner to that described for Example 24(a), except that 6-[5-methoxy-2-hydroxymethyl-4-(2-trimethylsilanyl-ethoxymethoxy)-phenyl]-1-(2-trimethylsilanyl-ethoxymethyl)-3-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzoimidazol-2-yl]-1H-indazole, prepared as described below, was used instead of 6-[5-methoxy-2-methyl-4-(2-trimethylsilanyl-ethoxymethoxy)-phenyl]-1-(2-trimethylsilanyl-ethoxymethyl)-3-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzoimidazol-2-yl]-1H-indazole. 1H NMR (300 MHz, DMSO-d6) δ 13.59 (s, 1H), 12.95 (s, 1H), 9.05 (s, 1H), 8.49 (d, 1H, J=8.4 Hz), 7.72 (dd, 1H, J=6.3, 2.1 Hz), 7.60 (s, 1H), 7.51 (dd, 1H, J=6.3, 2.1 Hz), 7.31 (d, 1H, J=8.4 Hz), 7.20-7.24 (m, 2H), 7.02 (s, 1H), 6.87 (s, 1H), 5.02 (t, 1H, J=5.4 Hz), 4.32 (d, 2H, J=5.4 Hz), 3.80 (s, 3H). MS (ES) [m+H]/z calc'd 387, found 387; [m−H]/z calc'd 385, found 385.

reactant | 6-[5-methoxy-2-hydroxymethyl-4-(2-trimethylsilanyl-ethoxymethoxy)-phenyl]-1-(2-trimethylsilanyl-ethoxymethyl)-3-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzoimidazol-2-yl]-1H-indazole | COC=1C(=CC(=C(C1)C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)C1=NC2=C(N1COCC[Si](C)(C)C)C=CC=C2)CO)OCOCC[Si](C)(C)C | C40H60N4O6Si3
reactant | 6-[5-methoxy-2-methyl-4-(2-trimethylsilanyl-ethoxymethoxy)-phenyl]-1-(2-trimethylsilanyl-ethoxymethyl)-3-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzoimidazol-2-yl]-1H-indazole | COC=1C(=CC(=C(C1)C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)C1=NC2=C(N1COCC[Si](C)(C)C)C=CC=C2)C)OCOCC[Si](C)(C)C | C40H60N4O5Si3
product | 3-1H-Benzoimidazol-2-yl-6-(2-(hydroxymethyl)-5-methoxy-4-hydroxy-phenyl)-1H-indazole | N1C(=NC2=C1C=CC=C2)C2=NNC1=CC(=CC=C21)C2=C(C=C(C(=C2)OC)O)CO | C22H18N4O3
